US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.106 g, 0.384 mmol) was reacted with N-(2-azidoethyl)cinnamamide (0.083 g, 0.384 mmol) following the general click procedure to give (E)-tert-butyl 2-amino-4-(5-(1-(2-cinnamamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.67 (s, 1H), δ 7.51 (d, 1H), δ 7.28 (m, 6H), δ 6.45 (t, 2H), δ 6.08 (s, 2H), δ 4.47 (s, 2H), δ 3.79 (s, 2H), δ 2.57 (s, 2H), δ 2.23 (s, 2H), δ 1.50 (bs, 13H), δ 1.28 (s, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 166.9, 150.4, 149.5, 148.3, 141.2, 138.9, 134.9, 129.9, 128.9, 128.0, 122.1, 120.8, 106.5, 84.8, 53.7, 49.5, 39.9, 31.1, 29.3, 28.9, 28.3, 28.2, 25.6 ppm; HRMS (ESI) calcd for C26H35N7O3 (M+) 493.2801. found 493.2800, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)cinnamamide hydrochloride (0.097 g, 59% yield). 1H NMR (400 MHz, CD3OD) δ 8.10 (s, 1H), δ 7.49 (s, 3H), δ 7.32 (s, 3H), δ 6.30 d, 1H), δ 6.39 (s, 1H), δ 4.66 (s, 2H), δ 3.83 (s, 2H), δ 2.73 (s, 2H), δ 2.40 (s, 2H), δ 1.57 (s, 2H), δ 1.55 (s, 2H), δ 1.36 (s, 2H) ppm; 13C NMR (100 MHz, CD3OD) δ 167.8, 160.5, 150.2, 147.3, 141.1, 134.8, 130.7, 129.9, 128.8, 127.8, 127.6, 124.9, 23 9, 120.2, 108.5, 108.3, 53.1, 39.3, 36.5, 30.6, 28.4, 28.1, 27.6, 26.5, 24.2, 24.1, 23.7 ppm; HRMS (ESI) calcd for C21H27N7O (M+) 393.2277. found 393.2273.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.384 mmol, 0.106 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)cinnamamide | 0.384 mmol, 0.083 g | N(=[N+]=[N-])CCNC(C=CC1=CC=CC=C1)=O | C11H12N4O
product | (E)-tert-butyl 2-amino-4-(5-(1-(2-cinnamamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(\C=C\C1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C26H35N7O3
